US08383821B2
4′-Cyano-N,N-dimethyl-5-(((4-phenylpiperidin-4-yl)methoxy)methyl)biphenyl-3-carboxamide.
tert-Butyl 4-((3-bromo-5-(dimethylcarbamoyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate (41.2 mg, 0.08 mmol), 4-cyanophenylboronic acid (34.3 mg, 0.23 mmol), and tetrakis(triphenylphosphine) palladium(0) (12.1 mg, 0.01 mmol) were combined in dry tetrahydrofuran (3 mL) in a microwave tube and sealed. After flushing with nitrogen, 0.28 mL of a 1 N potassium hydroxide aqueous solution was introduced. The mixture was heated at 120° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated and treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol and concentrated to afford 29 mg (66%). 1H-NMR (CD3OD, 500 MHz) δ 7.81-7.84 (m, 2H), 7.76 (s, 1H), 7.74 (s, 1H), 7.59 (s, 1H), 7.49 (s, 1H), 7.42-7.44 (m, 2H), 7.32-7.35 (m, 2H), 7.17-7.22 (m, 2H), 4.51 (s, 2H), 3.52 (s, 2H), 3.15 (s, 3H), 2.99 (s, 3H), 2.88-2.95 (m, 2H), 2.67-2.72 (m, 2H), 2.24-2.27 (m, 2H), 1.91-1.97 (m, 2H). 13C-NMR (CD3OD, 126 MHz) δ 172.2, 144.9, 144.2, 140.9, 139.9, 137.3, 132.9, 128.4, 128.1, 127.4, 127.2, 126.2, 125.7, 124.7, 118.7, 111.5, 79.9, 72.2, 42.1, 41.8, 39.1, 34.7, 32.7. Mass spec.: 454.31 (MH)+. Accurate mass spec.: m/z 454.2496 [MH]+, Δ=0.3 ppm.

reactant | tert-Butyl 4-((3-bromo-5-(dimethylcarbamoyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.08 mmol, 41.2 mg | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)C(N(C)C)=O | C27H35BrN2O4
reactant | 4-cyanophenylboronic acid | 0.23 mmol, 34.3 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.01 mmol, 12.1 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4′-Cyano-N,N-dimethyl-5-(((4-phenylpiperidin-4-yl)methoxy)methyl)biphenyl-3-carboxamide | C(#N)C1=CC=C(C=C1)C1=CC(=CC(=C1)COCC1(CCNCC1)C1=CC=CC=C1)C(=O)N(C)C | C29H31N3O2
